US07994171B2
4-Fluoro-2-(4-fluorophenyl)-5-(5-(1-(5-fluoropyrimidin-2-yl)cyclopropyl carbamoyl)-4-methoxy-2-methylphenyl)-N-methylbenzofuran-3-carboxamide.
To a mixture of 5-(4-fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid (0.04 g, 0.089 mmol, 1 eq), 1-(5-fluoropyrimidin-2-yl)cyclopropanamine (130 mg, crude), Py-Bop (0.06 g, 0.11 mmol, 1.3 eq) in DMF at ambient temperature under nitrogen was added triethylamine (0.027 g, 0.26 mmol, 3 eq). The clear mixture was stirred at ambient temperature for 12 h. The mixture was concentrated, diluted with water and extracted with EtOAc. The organic layer was further washed with water, dried over sodium sulphate and concentrated. The product obtained was purified by preparative HPLC. Yield: 0.023 g (44%). 1H NMR (400 MHz, CD3OD): δ 8.59 (d, J=0.4 Hz, 2H), 7.98-7.94 (m, 2H), 7.87 (s, 1H), 7.52 (d, J=8.4 Hz, 1H), 7.31-7.25 (m, 3H), 7.18 (s, 1H), 4.09 (s, 3H), 2.96 (s, 3H), 2.30 (s, 3H), 1.79-1.76 (m, 2H), 1.52-1.48 (m, 2H). 19F NMR (376.57 MHz, CD3OD) δ−77.62 (TFA), −112.36, −122.73, −145.58 LCMS: (ES+) m/z=587.2 (M+H)+

reactant | 5-(4-fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid | 0.089 mmol, 0.04 g, 1 eq | FC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=2C(=CC(=C(C(=O)O)C2)OC)C | C25H19F2NO5
reactant | 1-(5-fluoropyrimidin-2-yl)cyclopropanamine | 130 mg | FC=1C=NC(=NC1)C1(CC1)N | C7H8FN3
reactant | triethylamine | 0.26 mmol, 0.027 g, 3 eq | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-Fluoro-2-(4-fluorophenyl)-5-(5-(1-(5-fluoropyrimidin-2-yl)cyclopropyl carbamoyl)-4-methoxy-2-methylphenyl)-N-methylbenzofuran-3-carboxamide | FC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C2=C(C=C(C(=C2)C(NC2(CC2)C2=NC=C(C=N2)F)=O)OC)C | C32H25F3N4O4
